US06800625B2
2-Benzyl-3-(2,3-dihydro-benzofuran-5-yl)-2,4-dihydro-pyrrolo[3,4-b]quinolin-9-one (Compound #2)
3-Benzo[1,3]dioxol-5-yl-2-benzyl-1,2,3,4-tetrahydro-pyrrolo[3,4-b]quinolin-9-one, prepared as in WO 01/87882, Example 3, page 45, (39.6 mg, 0.1 mmol) in a mixture of CH2Cl2 (4 mL) and DMF (1 mL) was stirred with a solution of mCPBA (26 mg, 0.15 mmol) in CH2Cl2 (2 mL) at room temperature for 72 h. The product was isolated by preparative TLC (2.5% MeOH/CH2Cl2, Rf=0.72) to yield the title compound as a yellow solid.

reactant | 3-Benzo[1,3]dioxol-5-yl-2-benzyl-1,2,3,4-tetrahydro-pyrrolo[3,4-b]quinolin-9-one | O1COC2=C1C=CC(=C2)C2N(CC1=C2NC=2C=CC=CC2C1=O)CC1=CC=CC=C1 | C25H20N2O3
reactant | mCPBA | 0.15 mmol, 26 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzyl-3-(2,3-dihydro-benzofuran-5-yl)-2,4-dihydro-pyrrolo[3,4-b]quinolin-9-one | C(C1=CC=CC=C1)N1C(=C2NC=3C=CC=CC3C(C2=C1)=O)C=1C=CC2=C(CCO2)C1 | C26H20N2O2
